US06727264B1
N-(3-{1-[(3R)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 1-(3-{[(1R)-3-chloro-1-phenylpropyl]oxy}phenyl)ethanone (58.5 mg, 0.200 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (56.8 mg, 0.200 mmol), NaI (34.0 mg, 0.200 mmol) and K2CO3 (55.5 mg, 0.400 mmol) in DMF (1 mL) was stirred at 100° C. for 3 h. The solvent was removed under reduced pressure and the residue was purified by chromatography on silica using 5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product (98 mg, 98%). 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 7.49-7.21 (m, 11H), 7.09-7.03 (m, 1H), 6.96 (d, 1H, J=7.9 Hz), 5.32 (dd, 1H, J=5.0, 7.9 Hz), 3.08-2.98 (m, 2H), 2.57-2.43 (m, 6H), 2.11-1.72 (m, 9H), 1.25 (d, 6H, J=6.8 Hz); ESMS m/e: 499.4 (M+H)+.

reactant | 1-(3-{[(1R)-3-chloro-1-phenylpropyl]oxy}phenyl)ethanone | 0.200 mmol, 58.5 mg | ClCC[C@H](C1=CC=CC=C1)OC=1C=C(C=CC1)C(C)=O | C17H17ClO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.200 mmol, 56.8 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | NaI | 0.200 mmol, 34.0 mg | [Na+].[I-]
reactant | K2CO3 | 0.400 mmol, 55.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3-{1-[(3R)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 98 mg, 98% | C(C)(=O)C=1C=C(O[C@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1 | C32H38N2O3
